US07015218B1
4-Fluoroaniline (100 g) and 2,5-dimethoxytetrahydrofuran (124.9 g) were added to acetic acid (500 ml) and the mixture was stirred at a refluxing temperature for 1 h. After cooling to room temperature, the reaction mixture was added to water (2.5 Liters) and the mixture was stirred further for 30 min. The precipitated crystals were recrystallized from a mixed solvent of methanol-acetone (ratio=2:1) to give 1-(4-fluorophenyl)pyrrole (156 g), melting point: 57–58° C.

reactant | 4-Fluoroaniline | 100 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 2,5-dimethoxytetrahydrofuran | 124.9 g | COC1OC(CC1)OC | C6H12O3
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-(4-fluorophenyl)pyrrole | 156 g | FC1=CC=C(C=C1)N1C=CC=C1 | C10H8FN
